Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Confusion, weakness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ y/o man with HTN, HLD, obesity, and sleep
apnea who presented to OSH with complaints of 2 weeks of
headache, with new confusion, right leg weakness, and urinary
incontinence day of admission transferred to ___ after head CT
there revealed left subdural hematoma.

His wife reported that he awoke around 0600 ___ and called her
to the room where he was sitting on the side of his bed stating
he couldn't move his right leg well. He tried to use the 
bathroom
but was incontinent. They presented to OSH where he became
progressively more confused and continued to complain of R leg
weakness. He was transferred to ___ for neurosurgical
evaluation.

Pertinent ED course: He was evaluated by both neurosurgery and
neurology. Repeat head CT 6 hours after initial CT showed stable
hematoma with minimal midline shift. UA was concerning for
infection and he was given ceftriaxone. He continued to be
confused with unsteady gait, neurology felt R leg weakness was
improving and that his confusion was likely toxic metabolic
encephalopathy from a UTI. He was admitted to medicine for
further treatment and monitoring.
 
Upon arrival to the floor, he and his wife reported he has been
frequently hitting his head due to his height but approximately 
a
week ago he hit it on the car door, and for the pain his wife
gave him multiple aspirin. Otherwise he states he still doesn't
feel himself and is very concerned about his leg and if he'll be
able to walk out of here "like a normal person." He states the
distal half of all his toes on both feet feel numb. He has been
having several days of dysuria, but denies any fevers, chills,
chest pain, dyspnea, abdominal pain, nausea, vomiting. diarrhea.
 
 
Past Medical History:
-HTN
-HLD
-OSA on CPAP
-Allergic rhinitis
-Obesity
-Osteoarthritis 
-R knee replacement ___
-Left hip replacement ___
 
Social History:
___
Family History:
FAMILY HISTORY: Per OMR
Mother, deceased @ ___; CHF, CVA, HTN, aortic stenosis
Father deceased @ ___: DM, HTN
Brother deceased @ ___ of MI
 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout except numb below right knee. CN2-11 intact.
Strength in upper and lower extremities ___, except right hip,
knee, foot ___.
PSYCH: pleasant, appropriate affect

Discharge exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, non-distended, non-tender to palpation.  Bowel
sounds present.  No HSM
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout except numb below right knee. CN2-11 intact.
Strength in upper and lower extremities ___
PSYCH: pleasant, appropriate affect

 
Pertinent Results:
___ 07:15AM BLOOD WBC-6.8 RBC-4.91 Hgb-15.6 Hct-45.8 MCV-93 
MCH-31.8 MCHC-34.1 RDW-11.9 RDWSD-41.0 Plt ___
___ 06:00AM BLOOD WBC-6.8 RBC-4.48* Hgb-14.1 Hct-42.0 
MCV-94 MCH-31.5 MCHC-33.6 RDW-11.9 RDWSD-41.1 Plt ___
___ 07:55AM BLOOD WBC-6.5 RBC-4.47* Hgb-14.2 Hct-41.9 
MCV-94 MCH-31.8 MCHC-33.9 RDW-11.9 RDWSD-41.2 Plt ___
___ 09:30AM BLOOD WBC-9.9 RBC-4.70 Hgb-15.0 Hct-44.2 MCV-94 
MCH-31.9 MCHC-33.9 RDW-11.9 RDWSD-41.1 Plt ___
___ 06:00AM BLOOD Neuts-66.3 Lymphs-17.2* Monos-13.0 
Eos-2.5 Baso-0.6 Im ___ AbsNeut-4.47 AbsLymp-1.16* 
AbsMono-0.88* AbsEos-0.17 AbsBaso-0.04
___ 09:30AM BLOOD Neuts-83.6* Lymphs-7.3* Monos-8.0 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-8.25* AbsLymp-0.72* 
AbsMono-0.79 AbsEos-0.03* AbsBaso-0.03
___ 07:15AM BLOOD Glucose-106* UreaN-16 Creat-0.9 Na-140 
K-4.5 Cl-102 HCO3-25 AnGap-13
___ 06:00AM BLOOD Glucose-108* UreaN-15 Creat-0.8 Na-142 
K-4.2 Cl-106 HCO3-24 AnGap-12
___ 07:55AM BLOOD Glucose-105* UreaN-19 Creat-0.9 Na-140 
K-4.3 Cl-104 HCO3-23 AnGap-13
___ 09:30AM BLOOD Glucose-148* UreaN-24* Creat-1.0 Na-140 
K-4.7 Cl-104 HCO3-22 AnGap-14
___ 07:15AM BLOOD Phos-4.1 Mg-2.2

CT head ___:
IMPRESSION:  
Minimal change in previously seen left subdural hematoma, 
measuring up to 7 mm in greatest dimension (previously 6 mm).  
Expected evolution of hematoma density with 2 remaining areas of 
persistently increased density to suggest acute components of 
hemorrhage.  Minimal to no mass effect. Motion artifact limits 
remaining study.  Within these limitations, no evidence of 
infarction or new hemorrhage. 

UCx:
                  **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      ESCHERICHIA COLI.    >100,000 CFU/mL.  PRESUMPTIVE 
IDENTIFICATION. 
         Cefazolin interpretative criteria are based on a dosage 
regimen of
         2g every 8h. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             ESCHERICHIA COLI
                             |   
AMPICILLIN------------     4 S
AMPICILLIN/SULBACTAM--   <=2 S
CEFAZOLIN-------------   <=4 S
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------  <=16 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

Bcx:

 
 
___ 10:30 am BLOOD CULTURE

   Blood Culture, Routine (Preliminary): 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE. 
         Isolated from only one set in the previous five days. 
         SENSITIVITIES PERFORMED ON REQUEST.. 
      CORYNEBACTERIUM SPECIES (DIPHTHEROIDS). 
         Isolated from only one set in the previous five days. 

   Anaerobic Bottle Gram Stain (Final ___: 
      Reported to and read back by ___. ___ ON ___ AT 
0500. 
      GRAM POSITIVE COCCI IN CLUSTERS. 

   Aerobic Bottle Gram Stain (Final ___: 
      GRAM POSITIVE ROD(S) CONSISTENT WITH CORYNEBACTERIUM OR    
          
                          PROPIONIBACTERIUM SPECIES. 
      Reported to and read back by ___ (___) AT 10:00 
AM
      ___.

___: BCX: NGTD

  
 
Brief Hospital Course:
___ y/o man with HTN, HLD, obesity, and sleep
apnea who presented with confusion and R leg weakness found to
have left sided subdural hematoma with R leg weakness and UTI. 

ACUTE/ACTIVE PROBLEMS:
#SUBDURAL HEMATOMA, R LEG WEAKNESS: Suspect traumatic from
hitting head in setting of aspirin use, possibly on car door or
other instance as reports frequent occurrences. Location of
hematoma correlates with right leg weakness on exam. Per
neurosurgery no need for surgical intervention. Neurology was 
consulted. Pt's RLE weakness improved during hospitalization. 
Aspirin was placed on hold likely for a few more weeks until 
neurology and neurosurgery f/u. Plan for outpt neuro and 
neurosurg f/u with repeat CT.  Neurology f/u arranged. Neurosurg 
f/u pending. Will need repeat head CT prior to visit.

#UTI: UA with positive nitrites, 39 WBCs, moderate bacteria, 0
epis consistent with UTI. Episode of urinary incontinence also
likely in setting of UTI. Urine culture-pan ___. Treated 
with IV ceftriaxone starting ___ through ___ which was 
converted to PO Bactrim to complete a 7 day course to end ___. 


#ENCEPHALOPATHY: Improved. Suspect toxic metabolic in setting of
UTI as below. At baseline normal mental status and high
functioning. Treated for UTI. 

CHRONIC/STABLE PROBLEMS:
#OSA: Has CPAP at home but reports inconsistent usage as it
bothers him. Declined usage here. 

#HYPERTENSION: Continued home amlodipine

#HYPERLIPIDEMIA: Continued home pravastatin

GENERAL/SUPPORTIVE CARE:
# DIET: Regular
# LINES/TUBES/DRAINS: PIV
# VTE PROPHYLAXIS: Pneumoboots
# HCP/EMERGENCY CONTACT: Wife ___ (c) ___ (h)
___. Son ___ ___ updated 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Aspirin 81 mg PO DAILY 
3. Pravastatin 40 mg PO QPM 
4. Cyanocobalamin 500 mcg PO DAILY 
5. Vitamin D 1000 UNIT PO DAILY 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 1 TAB PO BID Duration: 3 Days 
Through ___.  amLODIPine 5 mg PO DAILY  
3.  Cyanocobalamin 500 mcg PO DAILY  
4.  Pravastatin 40 mg PO QPM  
5.  Vitamin D 1000 UNIT PO DAILY  
6. HELD- Aspirin 81 mg PO DAILY  This medication was held. Do 
not restart Aspirin until it is ok by neurology and neurosurgery

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
subdural hematoma 
urinary tract infection

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted for evaluation of confusion and found to have 
a bleed in your brain called a subdural hematoma as well as a 
urinary tract infection. For the subdural hematoma, you were 
evaluated by neurology and neurosurgery who recommended 
monitoring and outpatient follow up and to hold your aspirin for 
at least a few weeks. For your urinary tract infection, you were 
treated with antibiotics which will need to continue for a few 
more days after discharge. 
 
Followup Instructions:
___